US06699904B2
To a stirred solution of heptyl-[2-(4-hydroxymethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester (4.9 mmol, 1.7 g) in anhydrous ether (50 mL) was added activated manganese dioxide (Aldrich, 5 g). The resulting suspension was stirred at room temperature adding further 2 g portions of manganese dioxide every 2 hours until the starting material had been consumed as determined by TLC. The mixture was filtered through a Celite® plug and washed through exhaustively with dichloromethane. The yellow filtrate was concentrated to a yellow oil which was chromatographed on silica gel (20% ethyl acetate/hexanes) to give [2-(4-formyl-phenyl)-ethyl]-heptyl-carbamic acid tert-butyl ester as a clear oil (1.30 g, 76%).

reactant | heptyl-[2-(4-hydroxymethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester | 4.9 mmol, 1.7 g | C(C)(C)(C)OC(N(CCC1=CC=C(C=C1)CO)CCCCCCC)=O | C21H35NO3
solvent | ether | 50 mL | CCOCC | C4H10O
catalyst | manganese dioxide | 5 g | [O-2].[O-2].[Mn+4]
product | [2-(4-formyl-phenyl)-ethyl]-heptyl-carbamic acid tert-butyl ester | 1.30 g, 76% | C(C)(C)(C)OC(N(CCCCCCC)CCC1=CC=C(C=C1)C=O)=O | C21H33NO3
